US08030334B2
A flask is charged with 6-chloro-1-Boc-indole-2-boronic acid (0.839 g, 2.83 mmol), 1-benzyloxy-3-bromo-pyridine (0.500 g, 1.89 mmol), potassium phosphate (1.2 g, 5.67 mmol) and DMF (5 mL). The flask is evacuated and filled with nitrogen thrice and Pd(PPh3)4 (0.164 g, 0.141 mmol) is added. The flask is evacuated and filled with nitrogen thrice again, and heated to 80° C. for 3.5 h. The mixture is then diluted with ethyl acetate and washed with water thrice. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is redissolved in DCM (1 mL) and trifluoroacetic acid (2 mL) is added. After 1 h, 4M aqueous NaOH is added and following extraction with DCM, the organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is purified by silica gel flash chromatography (heptane-ethyl acetate, 1:1) to afford 2-(3-benzyloxy-phenyl)-6-chloro-1H-indole as a yellow solid. MS (ESI) m/z 335.07 (M+H)+.

reactant | 6-chloro-1-Boc-indole-2-boronic acid | 2.83 mmol, 0.839 g | ClC1=CC=C2C=C(N(C2=C1)C(=O)OC(C)(C)C)B(O)O | C13H15BClNO4
reactant | 1-benzyloxy-3-bromo-pyridine | 1.89 mmol, 0.500 g | C(C1=CC=CC=C1)ON1CC(=CC=C1)Br | C12H12BrNO
reactant | potassium phosphate | 5.67 mmol, 1.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.141 mmol, 0.164 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-benzyloxy-phenyl)-6-chloro-1H-indole | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1NC2=CC(=CC=C2C1)Cl | C21H16ClNO
